US06451792B1
500 mg of N-methyl-1-methylthio-2-nitroetheneamine, 770 mg of 1-methyl-1-(3-chloro-5-trifluoromethyl-2-pyridyl)hydrazine and 7 ml of 1,4-dioxane were stirred for about 4 hours under heating and refluxing and then cooled to room temperature, and the solvent was distilled off under reduced pressure. The concentrated residue was purified by silica gel column chromatography to obtain 370 mg of N-methyl-1-(2-methyl-2-(3-chloro-5-trifluoromethyl-2-pyridyl)hydrazino)-2-nitroetheneamine (Compound No. 35) having a melting point of from 159 to 160° C. (decomposed).

reactant | N-methyl-1-methylthio-2-nitroetheneamine | 500 mg | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
reactant | 1-methyl-1-(3-chloro-5-trifluoromethyl-2-pyridyl)hydrazine | 770 mg | CN(N)C1=NC=C(C=C1Cl)C(F)(F)F | C7H7ClF3N3
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | N-methyl-1-(2-methyl-2-(3-chloro-5-trifluoromethyl-2-pyridyl)hydrazino)-2-nitroetheneamine | 370 mg | CNC(=C[N+](=O)[O-])NN(C1=NC=C(C=C1Cl)C(F)(F)F)C | C10H11ClF3N5O2
